US04147528
A mixture of 8.0 g (0.033 mole) of 1,6-dihydro-4-methyl-6-oxo-1-(4-tolyl)pyrimidine-5-carboxylic acid, prepared from ethyl 1,6-dihydro-4-methyl-6-oxo-1-(4-tolyl)pyrimidine-5-carboxylate by the hydrolysis method of Example 2, and one equivalent of sodium hydride (added as mineral oil dispersion), slurried in 300 ml of glyme is stirred at ambient temperature for 3 days. The solid product is isolated by filtration, slurried in ether and reisolated to give after drying 5.0 g (57% yield) of sodium 1,6-dihydro-4-methyl-6-oxo-1-(4-tolyl)pyrimidine-5-carboxylate, m.p. 208°-10° C. dec.

reactant | 1,6-dihydro-4-methyl-6-oxo-1-(4-tolyl)pyrimidine-5-carboxylic acid | 0.033 mole, 8.0 g | CC=1N=CN(C(C1C(=O)O)=O)C1=CC=C(C=C1)C | C13H12N2O3
reactant | ethyl 1,6-dihydro-4-methyl-6-oxo-1-(4-tolyl)pyrimidine-5-carboxylate | CC=1N=CN(C(C1C(=O)OCC)=O)C1=CC=C(C=C1)C | C15H16N2O3
reactant | sodium hydride | one equivalent | [H-].[Na+]
solvent | glyme | 300 ml | C(OC)COC | C4H10O2
solvent | ether | CCOCC | C4H10O
product | sodium 1,6-dihydro-4-methyl-6-oxo-1-(4-tolyl)pyrimidine-5-carboxylate | 5.0 g, 57% yield | CC=1N=CN(C(C1C(=O)[O-])=O)C1=CC=C(C=C1)C.[Na+] | InChI=1S/C13H12N2O3.Na/c1-8-3-5-10(6-4-8)15-7-14-9(2)11(12(15)16)13(17)18;/h3-7H,1-2H3,(H,17,18);/q;+1/p-1
